US09192604B2
2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide
A microwave tube was charged with 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide (70 mg, 0.224 mmol), {3-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine (70 mg, 0.503 mmol) and cesium carbonate (230 mg, 0.706 mmol). The reaction mixture was degassed with nitrogen for 10 min. At same time, BINAP (50 mg, 0.080 mmol) and palladium(II) acetate (10 mg, 0.045 mmol) were added. The reaction mixture was heated in a microwave at 160° C. for 40 min. The crude material was purified on reverse-phase HPLC (Gilson) eluting with CH3CN/H2O with 0.1% formic acid which gave a title compound (15 mg, 15%); MS: M(C20H23ClN6O2)=414.89, (M+H)+=415, 416; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.42 (br. s., 1H) 8.71 (br. s., 1H) 8.02 (s, 1H) 7.54 (br. s., 1H) 7.06 (t, J=7.5 Hz, 1H) 6.48 (s, 1H) 6.32 (br. s., 1H) 5.86 (s, 1H) 4.47 (dt, J=13.4, 6.7 Hz, 1H) 3.92 (s, 3H) 2.26 (s, 3H) 1.41-1.43 (d, J=6.6 Hz, 2H).

reactant | 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide | 0.224 mmol, 70 mg | ClC1=NC=C(C(=C1)NC1=C(C(=O)NOC)C=CC=C1)Cl | C13H11Cl2N3O2
reactant | 3-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine | 0.503 mmol, 70 mg | CC1=NN(C(=C1)N)C(C)C | C7H13N3
reactant | cesium carbonate | 0.706 mmol, 230 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.080 mmol, 50 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | palladium(II) acetate | 0.045 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-N-(methyloxy)benzamide | 15 mg, 15% | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)NOC)C=CC=C1 | C20H23ClN6O2
